US07091353B2
3-(2-Methoxy-ethylamino)-phthalic acid
To a stirred solution of 3-(2-methoxy-ethylamino)-phthalic acid dimethyl ester (2.24 g, 8.38 mmol) in methanol (50 ml) was added 5N potassium hydroxide (10 ml). The mixture was stirred at room temperature overnight. The solvent was evaporated in vacuo and the residue dissolved in water (50 ml). The water was washed with diethyl ether (2×75 ml). The aqueous portion was cooled in an ice bath and the pH was adjusted to 2–3 by dropwise addition of concentrated hydrochloric acid. The aqueous solution was then extracted with ethyl acetate (3×75 ml). The combined ethyl acetate extracts were washed with brine (100 ml) and dried (MgSO4). The solvent was evaporated in vacuo and the residue, which contained a mixture of diacid and monomethyl esters, was used without further purification.

reactant | 3-(2-methoxy-ethylamino)-phthalic acid dimethyl ester | 8.38 mmol, 2.24 g | COC(C=1C(C(=O)OC)=C(C=CC1)NCCOC)=O | C13H17NO5
reactant | potassium hydroxide | 5N, 10 ml | [OH-].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | 3-(2-Methoxy-ethylamino)-phthalic acid | COCCNC1=C(C(C(=O)O)=CC=C1)C(=O)O | C11H13NO5
